US06541505B1
Methyl 4-(N-BOC-piperidin-4-yl-oxy)-benzoate.
656 mg (2.5 mmol) of triphenylphosphine and 304 mg (2 mmol) of 4-hydroxy methyl benzoate were dissolved in 3 ml of dry THF at 0° C. and a solution of 402 mg (2 mmol) of N-Boc 4-piperidinol and 418 mg (2.4 mmol) of diethylazodicarboxylate in 4 ml of dry THF were added dropwise over 5 min. The mixture was stirred at 0° C. for 2 h and then allowed to warm to room temperature and stirred for 3 days.The mixture was separated by chromatography on silica with a gradient of hexane/EtOAc (5-20%) to give 266 mg (40% yield) of the title compound. 1H NMR (CDCl3): 7.96 (d, 2H), 6.90 (d, 2H), 4.52-4.56 (m, 1H), 3.87 (s, 3H), 3.65-3.72 (m, 2H), 3.31-3.39 (m, 2H), 1.83-1.97 (m, 2H), 1.70-1.82 (m, 2H), 1.45 (s, 9H). MS (EI) m/z 184.

reactant | triphenylphosphine | 2.5 mmol, 656 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-Boc 4-piperidinol | 2 mmol, 402 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | diethylazodicarboxylate | 2.4 mmol, 418 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | Methyl 4-(N-BOC-piperidin-4-yl-oxy)-benzoate | 266 mg, 40% yield | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC=C(C(=O)OC)C=C1 | C18H25NO5
